US07816357B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-(methylamino)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A mixture of 2-(4-(trifluoromethyl)benzyl)-6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (50 mg, 0.091 mmol), prepared as described in Example 3, and 2.0 M methyl amine in THF (0.4 mL) was stirred at reflux for 12 h. After this time, the reaction mixture was cooled to RT and diluted with water (5 mL). The resultant solution was extracted with EtOAc (5 mL×3). The combined organic layers were washed with water (5 mL×2) followed by saturated aqueous NaCl (5 mL×2). The organic layer was dried over MgSO4, filtered and concentrated to obtain a crude product. The crude product was purified by preparative reverse phase HPLC to give the title compound, 2-(4-(trifluoromethyl)benzyl-7,8-bis(4-chlorophenyl)-6-(methylamino)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (31.5 mg, 64%) as pale yellow solid. HPLC: 4.17 min; MS: M+H=544; 1H NMR (CDCl3), ppm: 7.55 (2H, d, J=10.0 Hz), 7.47 (2H, d, J=10.0 Hz), 7.34 (2H, d, J=10.0 Hz), 7.21 (2H, d, J=10.0 Hz), 7.09 (2H, d, J=10.0 Hz), 7.05 (2H, d, J=10.0 Hz), 5.18 (2H, s), 4.19-4-21 (1H, br), 2.95 (3H, d, J=5.0 Hz).

reactant | 2-(4-(trifluoromethyl)benzyl)-6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.091 mmol, 50 mg | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)Cl)C2=O)C=C1)(F)F | C25H14Cl3F3N4O
reactant | methyl amine | 2.0 M | CN | CH5N
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-(4-(Trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-(methylamino)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)NC)C2=O)C=C1)(F)F | C26H18Cl2F3N5O
